US05360812
5.4 g (77 mmol) of hydroxylamine hydrochloride, dissolved in 15 ml of water, are added to a solution of 11.4 g (70 mmol) of 2-hydroxyimino-3-oxotetrahydrothiophene dioxide in 100 ml of methanol. After 2 hours at room temperature the batch is completely concentrated and the residue is recrystallised from ethanol. 6.2 g (50%) of 2,3-dihydroxyiminotetrahydrothiophene dioxide, m.p. 181° C., are obtained.

reactant | hydroxylamine hydrochloride | 77 mmol, 5.4 g | Cl.NO
reactant | 2-hydroxyimino-3-oxotetrahydrothiophene dioxide | 70 mmol, 11.4 g | ON=C1S(CCC1=O)(=O)=O | C4H5NO4S
solvent | water | 15 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2,3-dihydroxyiminotetrahydrothiophene dioxide | 6.2 g, 50% | ON=C1S(CCC1=NO)(=O)=O | C4H6N2O4S
